US06924400B2
(l) 1-(5′-Ethoxymethoxy-2,2′-diethylbiphenyl-4-yl)propan-1-one
In a manner similar to that of Example 1(g), by reacting 2 g (8.9 mmol) of 2-ethyl-5-ethoxymethoxyphenylboronic acid with 2.1 g (6.9 mmol) of 2-ethyl-4-propionylphenyl 1,1,1-trifluoromethanesulfonate, a black oil is obtained, which is used without further purification for the rest of the synthesis.

reactant | 2-ethyl-5-ethoxymethoxyphenylboronic acid | 8.9 mmol, 2 g | C(C)C1=C(C=C(C=C1)OCOCC)B(O)O | C11H17BO4
reactant | 2-ethyl-4-propionylphenyl 1,1,1-trifluoromethanesulfonate | 6.9 mmol, 2.1 g | FC(S(=O)(=O)OC1=C(C=C(C=C1)C(CC)=O)CC)(F)F | C12H13F3O4S
product | 1-(5′-Ethoxymethoxy-2,2′-diethylbiphenyl-4-yl)propan-1-one | C(C)OCOC=1C=CC(=C(C1)C1=C(C=C(C=C1)C(CC)=O)CC)CC | C22H28O3
